US06008283
In a 4 neck, 1 liter flask fitted with thermocouple, mechanical stirrer, Barrett trap with condenser, nitrogen line, and stopper, 1,3-dibenzoylbenzene (197 g) and hydrazine monohydrate (280 g) were heated in diethyleneglycol (540 ml) at 100° C. for 4 hours. The mixture was then heated to 160° C. while collecting water and excess hydrazine hydrate in a Barrett trap. Potassium hydroxide (43.7 g) was slowly added over 0.5 hour while the temperature was slowly increased to 200° C. The temperature was maintained at 200° C. for 1 hour. The reaction was cooled to room temperature and 1 L of water was added and stirred for 20 minutes. The contents were transferred to a separatory funnel. The reactor was rinsed with 250 ml dichloromethane and the rinse added to the water layer. The water was extracted three times with dichloromethane (250 ml each) and the combined organic phases were backwashed with 1 L water. The organic phases were dried over magnesium sulfate, filtered and the solvent removed on a rotary evaporator to give 1,3-dibenzylbenzene as a pale yellow liquid (168.3 g, 94.7% yield).

reactant | 1,3-dibenzoylbenzene | 197 g | C(C1=CC=CC=C1)(=O)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C20H14O2
reactant | hydrazine monohydrate | 280 g | O.NN
solvent | diethyleneglycol | 540 ml | C(COCCO)O | C4H10O3
product | 1,3-dibenzylbenzene | 168.3 g, 94.7% yield | C(C1=CC=CC=C1)C1=CC(=CC=C1)CC1=CC=CC=C1 | C20H18
